US05216026
Preparation of N-(4-bromophenyl)-N'-2-butanesulfonylurea
The general method of procedure A was followed with 2-butanesulfonamide (10 g, 73 mmole), 1N sodium hydroxide (73 ml), and 4-bromophenyl isocyanate (13.7 g). The filtrate from the reaction mixture was treated with 1N HCl and the resulting precipitate redissolved in 1N sodium hydroxide and reprecipitated with 1N HCl. The solid product was collected and dried at 65° C. under vacuum. The dissolution and precipitation procedure was repeated to provide 13.0 g of product which had the following analysis.

reactant | 2-butanesulfonamide | 73 mmole, 10 g | CC(CC)S(=O)(=O)N | C4H11NO2S
reactant | 4-bromophenyl isocyanate | 13.7 g | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
reactant | HCl | 1N | Cl | ClH
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | sodium hydroxide | 1N, 73 ml | [OH-].[Na+]
product | N-(4-bromophenyl)-N'-2-butanesulfonylurea | 13.0 g | BrC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C(C)CC | C11H15BrN2O3S
